* Z:\home\xenir\git\ltspice\Low Pass.asc
R3 N017 0 50
C13 N015 0 220p
C18 N016 0 390p
C19 N017 0 220p
L5 N015 N016 680nH
L8 N016 N017 680nH
V3 N014 0 AC 1 0 Rser=0
R1 N013 0 50
C2 N011 0 390p
C3 N012 0 560p
C4 N013 0 390p
L1 N011 N012 680nH
L2 N012 N013 680nH
V1 N010 0 AC 1 0 Rser=0
R2 N009 0 50
C6 N007 0 470p
C7 N008 0 680p
C8 N009 0 470p
L3 N007 N008 560nH
L4 N008 N009 560nH
V2 N006 0 AC 1 0 Rser=0
R4 N007 N006 50
R5 N011 N010 50
R6 N015 N014 50
R7 N005 0 50
C1 N002 0 220pF
C5 N003 0 390pF
C9 N004 0 390p
L6 N002 N003 680nH
L7 N003 N004 680nH
V4 N001 0 AC 1 0 Rser=0
R8 N002 N001 50
C10 N005 0 220pF
L9 N004 N005 680nH
.lib 2SC5706-SPICE-D.LIB
;tran 0 .00019 .000188
.include bs170.txt
.lib ZENER_12V.LIB
.ac dec 401 1Meg 80Meg
* 20m
* 20m
* 20m
* 20m
.backanno
.end
