* Z:\home\xenir\git\ltspice\Low Pass.asc
R3 N022 0 50
C13 N020 0 220p
C18 N021 0 390p
C19 N022 0 220p
L5 N020 N021 680nH
L8 N021 N022 680nH
V3 N019 0 AC 1 0 Rser=0
R1 N018 0 50
C2 N016 0 390p
C3 N017 0 560p
C4 N018 0 390p
L1 N016 N017 680nH
L2 N017 N018 680nH
V1 N015 0 AC 1 0 Rser=0
R2 N014 0 50
C6 N012 0 470p
C7 N013 0 680p
C8 N014 0 470p
L3 N012 N013 560nH
L4 N013 N014 560nH
V2 N011 0 AC 1 0 Rser=0
R4 N012 N011 50
R5 N016 N015 50
R6 N020 N019 50
R7 N010 0 50
C1 N007 0 220pF
C5 N008 0 390pF
C9 N009 0 390p
L6 N007 N008 680nH
L7 N008 N009 680nH
V4 N006 0 AC 1 0 Rser=0
R8 N007 N006 50
C10 N010 0 220pF
L9 N009 N010 680nH
R9 N005 0 50
C11 N002 0 220pF
C12 N003 0 470pF
C14 N004 0 470pF
L10 N002 N003 680nH
L11 N003 N004 680nH
V5 N001 0 AC 1 0 Rser=0
R10 N002 N001 50
C15 N005 0 220pF
L12 N004 N005 680nH
.lib 2SC5706-SPICE-D.LIB
;tran 0 .00019 .000188
.include bs170.txt
.lib ZENER_12V.LIB
.ac dec 401 6Meg 50Meg
* 20m
* 20m
* 20m
* 20m
* 20m
* 20m
* 20m
.backanno
.end
